US05071844
(S)-5,11-Dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine
Sodium bis(2-methoxyethoxy)aluminium hydride ("Red-Al"-registered Trade Mark) (20.8 ml of a 3.4M solution in toluene) was added to a solution of (S)-5,11-dihydro-5-(1-[4-methylphenylsulphonyl]-2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine (see Preparations 15 and 16) (8.0 g) in toluene (50 ml) and the mixture heated under reflux for 27 hours, allowed to cool to room temperature, quenched by the addition of 2.5M aqueous sodium hydroxide solution, diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with saturated aqueous sodium chloride solution, dried over sodium sulphate and evaporated under reduced pressure. The residue was purified by chromatography on silica gel, performing a gradient elution initially using dichloromethane as eluant and changing to dichloromethane/saturated methanolic ammonia (90:10). Appropriate fractions were combined and evaporated under reduced pressure to give the title compound as a colourless oil, (2.9 g, 55%), [α]589 -4.9° (c=1.065 in ethanol).

reactant | Sodium bis(2-methoxyethoxy)aluminium hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | (S)-5,11-dihydro-5-(1-[4-methylphenylsulphonyl]-2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine | 8.0 g | CC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCC1)CN1C2=C(SCC3=C1C=CC=C3)C=CC=C2 | C25H26N2O2S2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-5,11-Dihydro-5-(2-pyrrolidinylmethyl)dibenzo[b,e][1,4]thiazepine | 2.9 g, 55% | N1[C@@H](CCC1)CN1C2=C(SCC3=C1C=CC=C3)C=CC=C2 | C18H20N2S
